US07250519B2
The following syntheses were carried out under a dry pure-nitrogen or argon atmosphere using dry solvents. The products used [sodium-tert-butanolate, palladium (II)acetate, chloro-di-tert-butylphosphine, diphenylamine 1-naphthyl-phenylamine, bis(4-methoxyphenyl) amine] were obtained from ALDRICH and used without further purification. The 2,2′,7,7′-tetrabrom-9,9;spirobifluorene (purity>99.7%) was obtained according to the method of R. Wu, J. S. Schumm, D. L. Pearson, J. M. Tour, J. Org. Chem., 1996, 61, 6906–6921 and appropriate purification by recrystallisation from dioxane. The structural integrity of the products was determined by 1H-NMR-spectroscopy and the purity of the products by HPLC.

reactant | sodium tert-butanolate | [Na].C(C)(C)(C)[O-]
reactant | chloro-di-tert-butylphosphine | ClP(C(C)(C)C)C(C)(C)C | C8H18ClP
reactant | diphenylamine 1-naphthyl-phenylamine | C1(=CC=CC2=CC=CC=C12)NC1=CC=CC=C1.C1(=CC=CC=C1)NC1=CC=CC=C1
reactant | bis(4-methoxyphenyl) amine | COC1=CC=C(C=C1)NC1=CC=C(C=C1)OC | C14H15NO2
catalyst | palladium (II)acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | spirobifluorene | C12(C=CC=C3C4=CC=CC=C4C=C13)C=CC=C1C3=CC=CC=C3C=C12 | C25H16
